US04366153
Trifluoroacetic acid (12.8 ml.) was added portionwise to a chilled suspension of 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.2 g.) in anisole (3.2 ml.), and stirred at room temperature for 70 minutes. After removing the solvent from the resultant mixture in vacuo, the residue was triturated with diethyl ether. The precipitates were collected by filtration, dried and dissolved in water (40 ml.). The solution was adjusted to pH 4.8 with 10% sodium hydroxide solution under ice-cooling. The solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (trademark: Mitsubishi Chemical Industries Ltd.) and eluted with 20% aqueous isopropyl alcohol. The eluate was concentrated in vacuo and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-[1-(2-aminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.2 g.).

reactant | Trifluoroacetic acid | 12.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 3.2 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C | C27H36N10O9S3
solvent | anisole | 3.2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-[1-(2-aminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 1.2 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN)C(=O)O)C1=O)=NOCC(=O)O | C18H20N10O7S3
